US06130187
Preparation of 3-[4-chloro-2-(1-cyanoethyl)-3-ethoxycarbonyl-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 671)
20 ml of N,N-dimethylformamide was added to 0.8 g (1.6 mmol) of 3-[4-chloro-2-(1-chloroethyl)-3-ethoxycarbonyl-6-fluorobenzofuran-7-yl]-1-methyl-6-trifluoromethyluracil, 0.16 g (2.5 mmol) of potassium cyanide and 0.40 g (2.9 mmol) of potassium carbonate, followed by stirring at room temperature for 3 hours. After completion of the reaction, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.58 g (yield: 74%) of the desired product as a yellow glassy substance. Refractive index: 1.5348 (20° C.).

reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 3-[4-chloro-2-(1-chloroethyl)-3-ethoxycarbonyl-6-fluorobenzofuran-7-yl]-1-methyl-6-trifluoromethyluracil | 1.6 mmol, 0.8 g | ClC1=CC(=C(C2=C1C(=C(O2)C(C)Cl)C(=O)OCC)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C19H14Cl2F4N2O5
reactant | potassium cyanide | 2.5 mmol, 0.16 g | [C-]#N.[K+]
reactant | potassium carbonate | 2.9 mmol, 0.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-[4-chloro-2-(1-cyanoethyl)-3-ethoxycarbonyl-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.58 g, yield: 74% | ClC1=CC(=C(C2=C1C(=C(O2)C(C)C#N)C(=O)OCC)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C20H14ClF4N3O5
